US04351969
190 g (0.8 mol) of 2,2,6,6-tetrachlorocyclohexanone and 3 g (0.065 mol) of triphenylarsine were introduced into the reactor used in Example 1. The reaction mixture was heated at 150°-180° C., under stirring. Same was then treated as in Example 1 to yield 103.4 g of 2,6-dichlorophenol.

reactant | 2,2,6,6-tetrachlorocyclohexanone | 0.8 mol, 190 g | ClC1(C(C(CCC1)(Cl)Cl)=O)Cl | C6H6Cl4O
reactant | triphenylarsine | 0.065 mol, 3 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
product | 2,6-dichlorophenol | 103.4 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
